US05116833
2-[(Iodomethyl)thio]-5-methyl-1,3,4-oxadiazole
A suspension of 2-mercapto-5-methyl-1,3,4-oxadiazole potassium salt (33.0 g, 214 mmol) in CH3CN (330 mL) was stirred at R.T. for 24 h in the presence of BrCH2Cl (130 g, 1 mol). Then the solvent was evaporated and the residue partitioned between H2O and EtOAc. The organic phase was separated, dried (MgSO4) and evaporated. The residue thus obtained was redissolved in Et2O; the etheral solution was treated with charcoal and filtered through a pad of Celite. Evaporation of the filtrate left 29.4 g of a colorless oil. The crude oil was dissolved in acetone (350 mL), and sodium iodide (134 g, 894 mmol) was added. The resulting mixture was refluxed for 24 h, diluted with Et2O and washed with H2O. The aqueous phase was reextracted with Et2O. The organic extracts were combined, washed with H2O and brine, dried (MgSO4), treated with charcoal, filtered and finally evaporated to give 40.0 g (87.3%) of the title compound as a yellowish oil.

reactant | 2-mercapto-5-methyl-1,3,4-oxadiazole potassium salt | 214 mmol, 33.0 g | [K].SC=1OC(=NN1)C
reactant | BrCH2Cl | 1 mol, 130 g | BrCCl | CH2BrCl
reactant | charcoal | C | CH4
reactant | sodium iodide | 894 mmol, 134 g | [I-].[Na+]
solvent | CH3CN | 330 mL | CC#N | C2H3N
solvent | Et2O | CCOCC | C4H10O
product | 2-[(Iodomethyl)thio]-5-methyl-1,3,4-oxadiazole | 40.0 g, 87.3% | ICSC=1OC(=NN1)C | C4H5IN2OS
